US05789135
16) Phenethylaniline
Exemplary compounds include leucocrystal violet, tris(4-dimethylamino-o-tolyl)methane, bis(4-dimethylamino-o-tolyl)phenylmethane, bis(4-dimethylamino-o-tolyl)thienylmethane, 2-(2-chlorophenylamino-6-N,N-dibutylamino-9-(2-methoxycarbonyl)-phenylxanthene, 2-N,N-dibenzylamino-6-N,N-diethylamino-9-(2-methoxycarbonyl) phenylxanthene, benzo[a]-6-N,N-diethylamino-9-(2-methoxycarbonyl)phenylxanthene, benzoylleucomethylene blue, benzoyl-3,7-diethylaminophenoxazine, benzoyl-3,7-diethylamino-9-phenyldihydrophenazine, 6,6'-di-t-butyl-p,p'-bi-o-cresol.

reactant | leucocrystal violet | CN(C)C1=CC=C(C=C1)C(C2=CC=C(C=C2)N(C)C)C3=CC=C(C=C3)N(C)C | C25H31N3
reactant | tris(4-dimethylamino-o-tolyl)methane | CN(C1=CC(=C(C=C1)C)C(C1=C(C=CC(=C1)N(C)C)C)C1=C(C=CC(=C1)N(C)C)C)C | C28H37N3
reactant | bis(4-dimethylamino-o-tolyl)phenylmethane | CN(C1=CC(=C(C=C1)C)C(C1=CC=CC=C1)C1=C(C=CC(=C1)N(C)C)C)C | C25H30N2
reactant | bis(4-dimethylamino-o-tolyl)thienylmethane | CN(C1=CC(=C(C=C1)C)C(C=1SC=CC1)C1=C(C=CC(=C1)N(C)C)C)C | C23H28N2S
reactant | benzoyl-3,7-diethylaminophenoxazine | C(C1=CC=CC=C1)(=O)C1=CC(=CC=2OC3=CC(=CC=C3NC12)NCC)NCC | C23H23N3O2
reactant | benzoyl-3,7-diethylamino-9-phenyldihydrophenazine | C(C1=CC=CC=C1)(=O)C1CC(=CC2=NC3=CC(=CC(=C3N=C12)C1=CC=CC=C1)NCC)NCC | C29H28N4O
product | Phenethylaniline | C(CC1=CC=CC=C1)NC1=CC=CC=C1 | C14H15N
